US09447090B2
To a suspension of 307 mg of 8-(cyclohexylmethoxy)-2-methyl-N-[(3S)-piperidin-3-yl]imidazo[1,2-a]pyridine-3-carboxamide dihydrochloride, 335 mg of potassium carbonate, 5 ml of acetonitrile, and 5 ml of DMF was added 92 μl of bromoethyl acetate under ice-cooling, followed by stirring for 3 hours under ice-cooling. To the reaction mixture were added water and chloroform to carry out a layer separation operation. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 299 mg of ethyl[(3S)-3-({[8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}amino)piperidin-1-yl]acetate.

reactant | 8-(cyclohexylmethoxy)-2-methyl-N-[(3S)-piperidin-3-yl]imidazo[1,2-a]pyridine-3-carboxamide dihydrochloride | 307 mg | Cl.Cl.C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)N[C@@H]2CNCCC2
reactant | potassium carbonate | 335 mg | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 5 ml | C(C)#N | C2H3N
reactant | bromoethyl acetate | 92 μl | C(C)(=O)OCCBr | C4H7BrO2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | ethyl[(3S)-3-({[8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}amino)piperidin-1-yl]acetate | 299 mg | C(C)OC(CN1C[C@H](CCC1)NC(=O)C1=C(N=C2N1C=CC=C2OCC2CCCCC2)C)=O | C25H36N4O4
